US07488832B2
Step 4. N-[amino(imino)methyl]-2-(2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetamide
To a stirred solution of (2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetic acid (155 mg, 0.53 mmol) in DMF (1.0 ml) was added 1,1′-carbonyldiimidazole (172 mg, 1.06 mmol) at room temperature. After 1 h stirring, the reaction mixture was treated with a solution of guanidine carbonate (286 mg, 1.59 mmol) in DMF (2.0 ml) and triethylamine (0.22 ml, 1.59 mmol). After stirring for 18 h, the reaction mixture was quenched with H2O (10 ml). The aqueous was extracted with EtOAc (3×30 ml). The combined organic extracts were washed with H2O (2×30 ml), brine (30 ml), dried (Na2SO4), filtered and concentrated. The crude material was purified by chromatography (silica gel; EtOAc/2M NH3 in MeOH: 97/3) to give the titled compound (130 mg, 74%) as a solid: mp 155-158° C.; MS (+) ES, 333 (M+H)+.

reactant | (2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetic acid | 0.53 mmol, 155 mg | C(C1=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)CC(=O)O | C19H17NO2
reactant | 1,1′-carbonyldiimidazole | 1.06 mmol, 172 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | guanidine carbonate | 1.59 mmol, 286 mg | C(O)(O)=O.NC(=N)N
reactant | triethylamine | 1.59 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-[amino(imino)methyl]-2-(2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetamide | 130 mg, 74% | NC(NC(CN1C(=CC=C1C1=CC=CC=C1)CC1=CC=CC=C1)=O)=N | C20H20N4O
